US09290456B2
A mixture of (1,3-bis(2,6-diisopropylphenyl)-2,3-dihydro-1H-imidazol-2-yl)copper(II) chloride (0.718 g, 1.469 mmol), sodium tert-butoxide (0.141 g, 1.469 mmol) and THF (106 ml) was allowed to stir under nitrogen for 10 minutes. 4,4,4′,4′,5,5,5′,5′-Octamethyl-2,2′-bi(1,3,2-dioxaborolane) (8.21 g, 32.3 mmol) was added and the mixture stirred for 30 minutes at room temperature. The mixture was cooled to −78° C. and a solution of 1-ethynyl-4-(trifluoromethyl)benzene (5 g, 29.4 mmol) in THF (21.30 ml) and methanol (1.308 ml, 32.3 mmol) was added via syringe. The whole mixture was then stirred at −40° C. with slow warming to 20° C. overnight. The resulting mixture was filtered through a pad of diatomaceous earth to give a brown solution which was concentrated in vacuo. The residue was purified by column chromatography (silica, eluting with 0-6% diethyl ether in petrol). The combined fractions were subjected to further purification by column chromatography (silica, eluting with 0-50% dichloromethane in petrol) to afford 4,4,5,5-tetramethyl-2-{1-[4-(trifluoromethyl)phenyl]ethenyl}-1,3,2-dioxaborolane as a yellow solid (2.82 g, 32%).

reactant | (1,3-bis(2,6-diisopropylphenyl)-2,3-dihydro-1H-imidazol-2-yl)copper(II) chloride | 1.469 mmol, 0.718 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C(N(C=C1)C1=C(C=CC=C1C(C)C)C(C)C)[Cu]Cl
reactant | sodium tert-butoxide | 1.469 mmol, 0.141 g | CC(C)([O-])C.[Na+]
reactant | 4,4,4′,4′,5,5,5′,5′-Octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 32.3 mmol, 8.21 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | 1-ethynyl-4-(trifluoromethyl)benzene | 29.4 mmol, 5 g | C(#C)C1=CC=C(C=C1)C(F)(F)F | C9H5F3
reactant | methanol | 32.3 mmol, 1.308 ml | CO | CH4O
solvent | THF | 21.30 ml | C1CCOC1 | C4H8O
solvent | THF | 106 ml | C1CCOC1 | C4H8O
product | 4,4,5,5-tetramethyl-2-{1-[4-(trifluoromethyl)phenyl]ethenyl}-1,3,2-dioxaborolane | 2.82 g, 32% | CC1(OB(OC1(C)C)C(=C)C1=CC=C(C=C1)C(F)(F)F)C | C15H18BF3O2
